US08349824B2
c) 4-(Azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid {2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide
This compound was prepared in analogy to 2-methyl-2H-pyrazole-3,4-dicarboxylic acid 4-dimethylamide 3-({2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide) (Example 100) from 2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine (127 mg, 0.47 mmol) and 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (130 mg, 0.62 mmol). Yield: 95 mg (33%); off-white solid; LC-MS: m/z=464.2 ([M+H]+).

reactant | 2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine | 0.47 mmol, 127 mg | FCCOC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)N)=N1 | C14H13FN4O
reactant | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid | 0.62 mmol, 130 mg | N1(CCC1)C(=O)C1=C(N(N=C1)C)C(=O)O | C9H11N3O3
product | 4-(Azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid {2-[2-(2-fluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-7-yl}-amide | FCCOC1=C(C=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1 | C23H22FN7O3
